### PR TITLE
feat(Data): Results about RelatesInSteps with bounds on the reachable set

### PR DESCRIPTION
**Pull request by crei**
If the number of elements reachable from an element `a` along a relation `r` is at most `k`, then any of those elements can be reached in at most `k - 1` steps.

This is a generalization of a result in #767, which was specific for Turing machine configurations (that PR still needs to be adapted).

This PR adds that result and in order to do so, introduces `IsChainFromTo`, an extension of `List.IsChain` that also fixes the start and end point.

AI disclosure: LLMs were used in creating this PR but everything was carefully edited and reviewed.

### CODE REVIEW

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 1]
```diff
@@ -147,6 +155,81 @@ lemma RelatesInSteps.map {α α' : Type*}
...
     exact .tail (g _) (g t') (g t'') m ih (hg t' t'' hstep)
 
+/-! ## Definition of and results about paths along a relation -/
+
+/--
+`IsPath r f n` means that the first `n` steps of the sequence `f : ℕ → α` form a path along `r`,
+i.e. `r (f i) (f (i + 1))` holds for every `i < n`. The values of `f` beyond index `n` are
+irrelevant.
+-/
+def IsPath (r : α → α → Prop) (f : ℕ → α) (n : ℕ) : Prop := ∀ i < n, r (f i) (f (i + 1))
```
Comment (fmontesi) [inline Cslib/Foundations/Data/RelatesInSteps.lean:165]: Why is this not just a list of elements? This reminds me a lot of Execution in LTS and its omega-counterpart. What you have here looks like the omega-sequence infinite execution concept, but you use only a finite part of it.

@ctchou, what do you think?

Comment (fmontesi) [reply Cslib/Foundations/Data/RelatesInSteps.lean:165]: In general I'm otherwise very positive about this. We should just make sure that the API experience between Relation and LTS for these things is similar enough to be familiar to people using both.

Comment (thomaskwaring) [reply Cslib/Foundations/Data/RelatesInSteps.lean:165]: for a list this is exactly [List.IsChain](https://leanprover-community.github.io/mathlib4_docs/Batteries/Data/List/Basic.html#List.IsChain) — i would advocate not duplicating that definition (EDIT: by which i mean using that definition instead of `IsPath` — unless there is some reason the indexing over `Nat` is necessary)

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 2]
```diff
@@ -147,6 +155,81 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+    ReflTransGen r (f 0) (f i) := by
+  have := (hf.relatesInSteps 0 i (by lia)).reflTransGen
+  rwa [Nat.zero_add] at this
+
+/-- A path visiting more positions than there are elements reachable from its starting point must
+visit some element twice. -/
+theorem IsPath.exists_eq_of_ncard_le {f : ℕ → α} {n : ℕ}
+    (hf : IsPath r f n)
+    (hfin : Set.Finite (ReflTransGen r (f 0)))
+    (hn : Set.ncard (ReflTransGen r (f 0)) ≤ n) :
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean:219]: i think using `Set.ncard` on the predicate `ReflTransGen r (f 0)` should be considered defeq abuse — the preferred spelling would be `Set.ncard {x | ReflTransGen r (f 0) x}`. also, the assumptions `hfin` and `hn` can be collapsed to `Set.encard {...} ≤ n`

Comment (crei) [reply Cslib/Foundations/Data/RelatesInSteps.lean:219]: I wonder if it makes sense to give this a name:
```lean
abbrev ReachableFrom (r : α → α → Prop) (a : α) := {x | ReflTransGen r a x}
```

File: Cslib/Foundations/Data/RelatesInSteps.lean (hunk 1 above)
Comment (thomaskwaring) [reply Cslib/Foundations/Data/RelatesInSteps.lean:165]: on this point, here's the equivalent `RelatesInSteps.exists_isPath` phrased using `List.IsChain` — to my mind the proof is simpler
```
theorem RelatesInSteps.exists_isChain {a b : α} {n : ℕ} (h : RelatesInSteps r a b n) :
    ∃ (l : List α), (a :: l).IsChain r ∧ b ∈ (a :: l).getLast? ∧ l.length = n := by
  induction h using RelatesInSteps.head_induction_on with
  | hrefl => use (discharger := simp) []
  | @hhead a c n h h' ih =>
    obtain ⟨l, hchain, hb, hlen⟩ := ih
    use c :: l
    grind
```
for other results, note the [existing api connected to Relation.ReflTransGen](https://loogle.lean-lang.org/?q=List.IsChain%2CRelation.ReflTransGen), and [List.isChain_ofFn](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/ChainOfFn.html#List.isChain_ofFn), which is more-or-less the `Fin n` version of your `IsPath`

**Review by ctchou — COMMENTED** [review]
Sorry, I just saw this PR.  I agree with @thomaskwaring that `List.IsChain` probably can do everything that `IsPath` can and has the advantage of having the enormous set of results about `List` in mathlib at its disposal.

Another potential problem with `IsPath` is that only the first `n` elements of the infinite sequence `f` matter.  So when you need to exhibit an `f`, you need to supply a dummy value for all elements in `f` beyond the first `n` elements.  This is not exactly elegant and may require you to add an assumption like `[Inhabited α]` in some situations.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 3]
```diff
@@ -147,6 +159,66 @@ lemma RelatesInSteps.map {α α' : Type*}
...
 
+/-! ## Lemmas to translate between RelatesInSteps and the existence of a chain (`List.IsChain`) -/
+
+/-- If `a` and `b` are related in `n` steps, then there is an `r`-chain of `n + 1` elements
+starting at `a` and ending at `b`.
+This is similar to `List.exists_isChain_ne_nil_of_relationReflTransGen`, but also provides
+a length guarantee. -/
+lemma RelatesInSteps.exists_isChain {a b : α} {n : ℕ} (h : RelatesInSteps r a b n) :
+    ∃ chain : List α,
+      chain.IsChain r ∧ ∃ h_len : chain.length = n + 1, chain[0] = a ∧ chain[n] = b := by
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: Since you don't refer to `h_len` below, you can replace it by `_`.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 4]
```diff
@@ -147,6 +159,66 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+This is a less explicit version of `RelatesInSteps.of_isChain_eq`. -/
+lemma RelatesInSteps.of_isChain_neg_nodup {chain : List α}
+    (hc : chain.IsChain r)
+    (hne : chain ≠ [])
+    (hdup : ¬ chain.Nodup) :
+    ∃ n < chain.length - 1, RelatesInSteps r (chain.head hne) (chain.getLast hne) n := by
+  rw [List.nodup_iff_getElem?_ne_getElem?] at hdup
+  push Not at hdup
+  obtain ⟨i, j, hij, hjn, heq⟩ := hdup
+  exact ⟨_, by omega, RelatesInSteps.of_isChain_eq hc hij hjn (by grind)⟩
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: It seems to me that the comments on these theorems do not accurately describe the contents of the theorems, because the word "chain" in these comments really refers to `RelatesInSteps`, rather than `List.IsChain`.  One can imagine perfectly reasonable theorems fitting these comments that use `List.IsChain` instead.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 5]
```diff
@@ -218,4 +286,37 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
   exact ⟨m, hm, RelatesInSteps.map g hg hevals⟩
 
+/-! ## Reachability under a bound on the number of reachable elements -/
+
+/-- A more precise version of `ReflTransGen.relatesInSteps`: if `b` is reachable from `a`, then it
+is related to `a` in fewer steps than there are elements reachable from `a`.
+Note that this cardinality is an `ℕ∞`, and if it is infinite, no bound on the number of steps
+is stated. -/
+theorem ReflTransGen.relatesInSteps_lt_encard {b : α} (h : ReflTransGen r a b) :
+    ∃ n, RelatesInSteps r a b n ∧ (n : ℕ∞) < {x | ReflTransGen r a x}.encard := by
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean:277]: Personally I think the last part of the statement would have been clearer if you explicitly require the set being finite for the cardinality comparison.  But that's just me and I don't insist on it.

More seriously, it seems to me that the real mathematical content of this theorem is that there is a shortest path from `a` to `b` in which there is no duplication of elements.  I think you should try to phrase and prove that theorem in terms of `List.IsChain` and then derive this theorem as a corollary.

**Review by ctchou — CHANGES_REQUESTED** [review]

File: Cslib/Foundations/Data/RelatesInSteps.lean (hunk 5 above)
Comment (crei) [reply Cslib/Foundations/Data/RelatesInSteps.lean:277]: I think both versions (with finiteness and Finset.card / just .encard) have their advantages and disadvantages. I like the current version better because it can be used both for finite and infinite sets and is "sharp" in both versions.

About the "IsChain-only" theorem: I guess I wanted to limit myself to results that directly relate to RelatesInSteps, but you are right, this is the cleaner approach, I'll try.

Comment (crei) [reply Cslib/Foundations/Data/RelatesInSteps.lean:277]: I was wondering if it makes sense to introduce a structure here:

```lean
/-- A "chain from to" is a list of elements where adjacent elements relate to each other
(cf. `List.IsChain`) and start and end with specific elements. -/
structure _root_.List.IsChainFromTo {α : Type*}
    (r : α → α → Prop) (chain : List α) (a b : α) : Prop where
  h_chain : chain.IsChain r
  h_from : chain.head? = some a
  h_to : chain.getLast? = some b

/-- If there is an `r`-chain from `a` to `b` with duplicates, then there is a shorter `r`-chain
from `a` to `b`. -/
lemma _root_.List.IsChainFromTo.exists_length_lt_of_not_nodup {chain : List α}
    (hc : chain.IsChainFromTo r a b) (h_dup : ¬ chain.Nodup) :
    ∃ chain' : List α, chain'.IsChainFromTo r a b ∧ chain'.length < chain.length := by
```

Additionally, this is now much more general and should probably move to mathlib (I'm a bit surprised that it is not there yet, but maybe I didn't find it) - should I just create a new file for that? Plus, this is probably relevant for the emerging graph theory section as well?

Comment (chenson2018) [reply Cslib/Foundations/Data/RelatesInSteps.lean:277]: Our usual procedure for Mathlib upstreaming is to leave them in the same file as any other proof, sometimes leaving a comment or in a section if it's several proofs. (If a comment is prefaced with `TODO` an issue will automatically open with that as its title)

Comment (ctchou) [reply Cslib/Foundations/Data/RelatesInSteps.lean:277]: Yes, I think `List.IsChainFromTo` is a good idea.  I like putting the new definitions and theorems about `List` in a new file under `Cslib/Foundations/Data/List/`.  The file can be removed after the mathlib upstreaming happens.  Personally I find this approach more modular.

File: Cslib/Computability/Machines/Turing/SingleTape/Deterministic.lean [hunk 6]
```diff
@@ -445,7 +445,7 @@ def TimeComputable.comp {f g : List Symbol → List Symbol}
         (hg.timeBound (f a).length) hg_outputsFun
     -- Therefore, the computer reduces a to g (f a) in the sum of those times.
     have h_a_reducesTo_g_f_a := RelatesWithinSteps.trans h_a_reducesTo_f_a h_f_a_reducesTo_g_f_a
-    apply RelatesWithinSteps.of_le h_a_reducesTo_g_f_a
+    refine RelatesWithinSteps.mono ?_ h_a_reducesTo_g_f_a
```
Comment (lengyijun) [inline Cslib/Computability/Machines/Turing/SingleTape/Deterministic.lean]: why not merge 2 refine ?

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 7]
```diff
@@ -0,0 +1,67 @@
...
+module
+
+public import Cslib.Init
+public import Mathlib.Data.List.Chain
+public import Mathlib.Data.List.Nodup
+
+/-! # Chains with a designated start and end
+
+This file defines `List.IsChainFromTo`, a variant of `List.IsChain` that also fixes the first and
+last element of the chain.
```
Comment (ctchou) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: I think it is better to put this file at `.../Data/List/IsChainFromTo.lean`.

File: Cslib/Foundations/Data/List.lean [hunk 8]
```diff
@@ -0,0 +1,67 @@
...
+
+variable {α : Type*} {r : α → α → Prop} {chain : List α} {a b : α}
+
+/-- A "chain from to" is a list of elements where adjacent elements relate to each other
+(cf. `List.IsChain`) and start and end with specific elements. -/
+structure List.IsChainFromTo {α : Type*} (r : α → α → Prop) (chain : List α) (a b : α) : Prop where
+  isChain : chain.IsChain r
+  ne_nil : chain ≠ []
+  head_eq : chain.head ne_nil = a
+  getLast_eq : chain.getLast ne_nil = b
```
Comment (ctchou) [inline Cslib/Foundations/Data/List.lean:47]: I would call these two fields `head` and `getLast` (or even `last`).  Then the following two theorems can use the consistent naming convention `List.IsChainFromTo.{head,getLast}_eq`.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 9]
```diff
@@ -0,0 +1,67 @@
...
+  hc.getLast_eq
+
+@[simp, grind ←]
+lemma List.IsChainFromTo.singleton {a : α} : List.IsChainFromTo r [a] a a :=
+  ⟨List.IsChain.singleton a, by simp, rfl, rfl⟩
+
+/-- If there is an `r`-chain from `a` to `b` with duplicates, then there is a shorter `r`-chain
+from `a` to `b` (the one that skips the part between the duplicates).
+Note that applying this method iteratively does not necessarily lead to the shortest `r`-chain
+from `a` to `b`, since we always keep the initial and final segment. -/
```
Comment (ctchou) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: I don't understand this sentence.  It seems to contradict `chain'.length < chain.length` in the theorem statement.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 10]
```diff
@@ -0,0 +1,67 @@
...
+variable {α : Type*} {r : α → α → Prop} {chain : List α} {a b : α}
+
+/-- A "chain from to" is a list of elements where adjacent elements relate to each other
+(cf. `List.IsChain`) and start and end with specific elements. -/
+structure List.IsChainFromTo {α : Type*} (r : α → α → Prop) (chain : List α) (a b : α) : Prop where
+  isChain : chain.IsChain r
+  ne_nil : chain ≠ []
+  head_eq : chain.head ne_nil = a
+  getLast_eq : chain.getLast ne_nil = b
+
```
Comment (ctchou) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean:81]: For completeness, please provide a theorem to go from `IsChain` to `IsChainFromTo` for any non-empty chain.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 11]
```diff
@@ -218,4 +267,39 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
+  classical
+  -- Let us use the shortest chain from `a` to `b`.
+  have hex : ∃ n, RelatesInSteps r a b n := h.relatesInSteps
+  refine ⟨Nat.find hex, Nat.find_spec hex, ?_⟩
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: `use Nat.find hex, Nat.find_spec hex` is probably better.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 12]
```diff
@@ -218,4 +267,39 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
+  obtain ⟨chain, hc, hlen⟩ := (Nat.find_spec hex).exists_isChainFromTo
+  -- All elements in the chain are reachable from `a`.
+  have hsub : {x | x ∈ chain} ⊆ {x | ReflTransGen r a x} := by
+    simp only [Set.subset_def, Set.mem_ofPred_eq]
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: This line is not needed.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 13]
```diff
@@ -218,4 +267,39 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
+    intro y hy
+    obtain ⟨i, hi, rfl⟩ := List.getElem_of_mem hy
+    have := RelatesInSteps.of_isChain hc.isChain 0 i (by omega)
+    grind [RelatesInSteps.reflTransGen]
+  -- Now assume, for the sake of contradiction, that the minimal chain has at least as many
+  -- elements as there are reachable elements.
+  by_contra hcard
+  push Not at hcard
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: Use `by_contra!` instead.  Then the `push` is unnecessary.

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 14]
```diff
@@ -218,4 +267,39 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
+  -- Then there is at least one duplicate element.
+  have h_dup : ¬chain.Nodup := by
+    intro h_nodup
+    have hle := (Set.encard_le_encard hsub).trans hcard
+    rw [← List.coe_toFinset, Set.encard_coe_eq_coe_finsetCard] at hle
+    grind [List.toFinset_card_of_nodup, Nat.cast_le]
+  -- But then we can shorten the chain which contradicts the fact that it is minimal.
+  obtain ⟨chain', hc', hlt⟩ := hc.exists_length_lt_of_not_nodup h_dup
+  have := List.length_pos_iff.mpr hc'.ne_nil
+  exact Nat.find_min hex (m := chain'.length - 1) (by omega) (RelatesInSteps.of_isChainFromTo hc')
```
Comment (ctchou) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: I golfed your proof a little bit:
```
  classical
  -- Let us use the shortest chain from `a` to `b`.
  have hex : ∃ n, RelatesInSteps r a b n := h.relatesInSteps
  use Nat.find hex, Nat.find_spec hex
  obtain ⟨chain, hc, hlen⟩ := (Nat.find_spec hex).exists_isChainFromTo
  -- All elements in the chain are reachable from `a`.
  have hsub : {x | x ∈ chain} ⊆ {x | ReflTransGen r a x} := by
    intro y hy
    obtain ⟨i, hi, rfl⟩ := List.getElem_of_mem hy
    have := RelatesInSteps.of_isChain hc.isChain 0 i
    grind [RelatesInSteps.reflTransGen]
  -- Now assume, for the sake of contradiction, that the minimal chain has at least as many
  -- elements as there are reachable elements.
  by_contra! hcard
  -- Then there is at least one duplicate element.
  have h_dup : ¬chain.Nodup := by
    have hle := (Set.encard_le_encard hsub).trans hcard
    rw [← List.coe_toFinset, Set.encard_coe_eq_coe_finsetCard] at hle
    grind [List.toFinset_card_of_nodup, Nat.cast_le]
  -- But then we can shorten the chain which contradicts the fact that it is minimal.
  obtain ⟨chain', hc', hlt⟩ := hc.exists_length_lt_of_not_nodup h_dup
  grind [Nat.find_min hex (m := chain'.length - 1), RelatesInSteps.of_isChainFromTo hc']
```

File: Cslib/Foundations/Data/List.lean [hunk 15]
```diff
@@ -0,0 +1,67 @@
...
+  rw [nodup_iff_getElem?_ne_getElem?] at h_dup
+  push Not at h_dup
+  obtain ⟨i, j, h_ij, h_lt, h_eq⟩ := h_dup
+  use chain.take i ++ chain.drop j
+  refine ⟨⟨?_, by simp; omega, by grind, by grind⟩, by grind⟩
+  · refine (hc.isChain.take _).append (hc.isChain.drop _) ?_
+    intro x hx y hy
+    rw [List.head?_drop] at hy
+    have := hc.isChain.getElem (i := i - 1) (by omega)
+    grind
```
Comment (ctchou) [inline Cslib/Foundations/Data/List.lean]: The `(by omega)` is unnecessary.  The `grind` takes care of it.

**Review by ctchou — CHANGES_REQUESTED** [review]

**Review by ctchou — CHANGES_REQUESTED** [review]
Please replace the `refine` you use to destruct a `List.IsChainFromTo` goal with:
```
apply List.IsChainFromTo.mk ..
```
This is a better style than the `refine` with nested `by` proofs.

**Comment by chriseth** [comment]
I discussed with @barni120400 about what to use for computation paths in nondeterministic machines. And of course what we will use there influences how the result here will be applied. In #820 he is using RelSeries, which is similar to IsChain (and compatible) and using that would probably not need an IsChainFromTo structure. I'll just add both versions for now so we can compare.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean (hunk 9 above)
Comment (chriseth) [reply Cslib/Foundations/Data/List/IsChainFromTo.lean]: Iterating the method is a greedy search that cuts duplicates. Each iteration reduces the length and it will terminate at some point. But the length of that chain is not the minimum over all chains from a to b.

**Comment by crei** [comment]
I discussed with @barni120400 about what to use for computation paths in nondeterministic machines. And of course what we will use there influences how the result here will be applied. In #820 he is using RelSeries, which is similar to IsChain (and compatible) and using that would probably not need an IsChainFromTo structure. So maybe we could think about switching over to that.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Data/List/IsChainFromTo.lean]: Thanks for the explanation.  But I'm not sure you need this second sentence here.  The purpose of the doc-string is to explain the contents of the theorem, not how its application may or may imply something.  The first sentence alone suffices.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 16]
```diff
@@ -0,0 +1,75 @@
...
+  obtain ⟨i, j, h_ij, h_lt, h_eq⟩ := h_dup
+  use chain.take i ++ chain.drop j
+  constructor
+  · apply IsChainFromTo.mk ((hc.isChain.take _).append (hc.isChain.drop _) ?_)
+      (by simp; omega) (by grind) (by grind)
+    intro x hx y hy
+    rw [List.head?_drop] at hy
+    have := hc.isChain.getElem (i := i - 1)
+    grind
+  · grind
```
Comment (ctchou) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: A little golfing:
```
  simp only [nodup_iff_getElem?_ne_getElem?, not_forall, not_not] at h_dup
  obtain ⟨i, j, h_ij, h_lt, h_eq⟩ := h_dup
  use chain.take i ++ chain.drop j
  split_ands
  · apply IsChainFromTo.mk ..
    · apply (hc.isChain.take _).append (hc.isChain.drop _)
      grind [List.head?_drop, hc.isChain.getElem (i := i - 1)]
    · grind [append_eq_nil_iff, drop_eq_nil_iff]
    · grind
    · grind
  · grind
```

**Review by ctchou — CHANGES_REQUESTED** [review]
Except for the two points I raised below, I am satisfied with this PR.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 17]
```diff
@@ -0,0 +1,75 @@
...
+
+variable {α : Type*} {r : α → α → Prop} {chain : List α} {a b : α}
+
+/-- A "chain from to" is a list of elements where adjacent elements relate to each other
+(cf. `List.IsChain`) and start and end with specific elements. -/
+structure List.IsChainFromTo {α : Type*} (r : α → α → Prop) (chain : List α) (a b : α) : Prop where
+  isChain : chain.IsChain r
+  ne_nil : chain ≠ []
+  head : chain.head ne_nil = a
+  last : chain.getLast ne_nil = b
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]:
```suggestion
  head_eq : chain.head ne_nil = a
  getLast_eq : chain.getLast ne_nil = b
  
attribute [grind →] List.IsChainFromTo.head_eq List.IsChainFromTo.getLast_eq
```
and then you can delete the duplicate lemmas

File: Cslib/Foundations/Data/List/IsChainFromTo.lean (hunk 16 above)
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean:194]: i think this lemma would also be nice
```suggestion
  · grind

lemma List.IsChainFromTo.exists_noDup (hc : chain.IsChainFromTo r a b) :
    ∃ chain' : List α, chain'.IsChainFromTo r a b ∧ chain'.Nodup := by
  induction hn : chain.length using Nat.strong_induction_on generalizing chain with
  | h n ih =>
    by_cases h_dup : chain.Nodup
    · use chain, hc, h_dup
    · obtain ⟨chain', hc', hlen⟩ := hc.exists_length_lt_of_not_nodup h_dup
      exact ih chain'.length (hn ▸ hlen) hc' rfl
```

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 18]
```diff
@@ -37,6 +46,9 @@ theorem RelatesInSteps.reflTransGen (h : RelatesInSteps r a b n) : ReflTransGen
   | refl => rfl
   | tail _ _ _ _ h ih => exact .tail ih h
 
+/-- If `b` is reachable from `a` via `r`, then they relate to each other for some number
+of steps.
+See `ReflTransGen.relatesInSteps_lt_encard` for a bound on the number of steps. -/
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: imo the second sentence is unnecessary

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 19]
```diff
@@ -0,0 +1,75 @@
...
+/-- Restatement of `getLast_eq`, but tagged with grind. -/
+@[grind →]
+lemma List.IsChainFromTo.last_eq (hc : chain.IsChainFromTo r a b) :
+    chain.getLast hc.ne_nil = b :=
+  hc.last
+
+@[simp, grind ←]
+lemma List.IsChainFromTo.singleton {a : α} : List.IsChainFromTo r [a] a a :=
+  ⟨List.IsChain.singleton a, by simp, rfl, rfl⟩
+
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean:86]: i think some further api lemmas for `IsChainFromTo` would be good — at very least this one can help with the proof of `RelatesInSteps.exists_isChainFromTo`
```
lemma List.IsChainFromTo.cons (h : r a b) (hc : chain.IsChainFromTo r b c) :
    (a :: chain).IsChainFromTo r a c where
  isChain := hc.isChain.cons_of_ne_nil hc.ne_nil (hc.head_eq.symm ▸ h)
  ne_nil := cons_ne_nil a chain
  head_eq := head_cons
  getLast_eq := hc.getLast_eq ▸ chain.getLast_cons hc.ne_nil
```
i think some induction principles (in the style of, say, `RelatesInSteps.head_induction_on`) would also be helpful, but if this pr is blocking something else maybe that can wait (though they oughtn't be too hard)

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 20]
```diff
@@ -147,6 +158,49 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+    ∃ chain : List α, chain.IsChainFromTo r a b ∧ chain.length = n + 1 := by
+  induction h with
+  | refl => exact ⟨[a], by simp, rfl⟩
+  | tail t' t'' m _ hstep ih =>
+    obtain ⟨l, hchain, hlen⟩ := ih
+    use l ++ [t'']
+    constructor
+    · apply List.IsChainFromTo.mk (hchain.isChain.append (by simp) (by grind))
+        (by simp) (by grind) (by simp)
+    · simp [hlen]
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: potentially simpler, using the lemma i suggested above
```suggestion
lemma RelatesInSteps.exists_isChainFromTo {a b : α} {n : ℕ} (h : RelatesInSteps r a b n) :
    ∃ chain : List α, chain.IsChainFromTo r a b ∧ chain.length = n + 1 := by
  induction h using RelatesInSteps.head_induction_on with
  | hrefl => exact ⟨[b], List.IsChainFromTo.singleton, rfl⟩
  | @hhead a c n h' h ih =>
    obtain ⟨l, hchain, hlen⟩ := ih
    use a :: l, hchain.cons h'
    simpa
```

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 21]
```diff
@@ -147,6 +158,49 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+    RelatesInSteps r chain[p] chain[p + k] k := by
+  induction k with
+  | zero => exact .refl _
+  | succ k ih =>
+    apply RelatesInSteps.tail _ (chain[p + k]) _ k (ih (by lia))
+    apply List.IsChain.getElem hc
+
+/-- If there is an `r`-chain from `a` to `b`, then `a` and `b` are related to each other with
+a number of steps equal to the length of the chain minus one. -/
+lemma RelatesInSteps.of_isChainFromTo {chain : List α} (hc : chain.IsChainFromTo r a b) :
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: this proof might be easier with the induction principle(s) i mentioned, but maybe that's just my taste

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 22]
```diff
@@ -218,4 +268,35 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
...
+is stated. -/
+theorem ReflTransGen.relatesInSteps_lt_encard {b : α} (h : ReflTransGen r a b) :
+    ∃ n, RelatesInSteps r a b n ∧ (n : ℕ∞) < {x | ReflTransGen r a x}.encard := by
+  classical
+  -- Let us use the shortest chain from `a` to `b`.
+  have hex : ∃ n, RelatesInSteps r a b n := h.relatesInSteps
+  use Nat.find hex, Nat.find_spec hex
+  obtain ⟨chain, hc, hlen⟩ := (Nat.find_spec hex).exists_isChainFromTo
+  -- All elements in the chain are reachable from `a`.
+  have hsub : {x | x ∈ chain} ⊆ {x | ReflTransGen r a x} := by
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: this could be extracted as a lemma — with signature something like
`chain.IsChainFromTo r a b → x ∈ chain → ReflTransGen r a x`, plus also the one with conclusion `ReflTransGen r x b`

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 23]
```diff
@@ -218,4 +268,35 @@ lemma RelatesWithinSteps.map {α α' : Type*} {r : α → α → Prop} {r' : α'
   obtain ⟨m, hm, hevals⟩ := h
   exact ⟨m, hm, RelatesInSteps.map g hg hevals⟩
 
+/-! ## Reachability under a bound on the number of reachable elements -/
+
+/-- A more precise version of `ReflTransGen.relatesInSteps`: if `b` is reachable from `a`, then it
+is related to `a` in fewer steps than there are elements reachable from `a`.
+Note that this cardinality is an `ℕ∞`, and if it is infinite, no bound on the number of steps
+is stated. -/
+theorem ReflTransGen.relatesInSteps_lt_encard {b : α} (h : ReflTransGen r a b) :
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean:276]: possibly this whole proof could be simplified using `List.IsChainFromTo.exists_noDup` suggested above, something like:
```
    ... := by
  obtain ⟨_, hn⟩ := h.relatesInSteps
  obtain ⟨chain, hc, _⟩ := hn.exists_isChainFromTo
  replace ⟨chain, hc, h⟩ := hc.exists_noDup
  use chain.length - 1, RelatesInSteps.of_isChainFromTo hc
  suffices hcard : chain.length ≤ {x | ReflTransGen r a x}.encard by
    by_contra! hcard'
    grind [ENat.natCast_le_natCast, hcard.trans hcard']
  classical
  rw [←List.toFinset_card_of_nodup h, ←Set.encard_coe_eq_coe_finsetCard, List.coe_toFinset]
  apply Set.encard_le_encard
  intro y hy
  obtain ⟨i, hi, rfl⟩ := List.getElem_of_mem hy
  have := RelatesInSteps.of_isChain hc.isChain 0 i
  grind [RelatesInSteps.reflTransGen]
```
which feels a little conceptually clearer to me (especially with `hsub` extracted as a lemma), but that could be a matter of taste

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 24]
```diff
@@ -147,6 +158,49 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+    obtain ⟨l, hchain, hlen⟩ := ih
+    use l ++ [t'']
+    constructor
+    · apply List.IsChainFromTo.mk (hchain.isChain.append (by simp) (by grind))
+        (by simp) (by grind) (by simp)
+    · simp [hlen]
+
+/-- Any two elements along an `r`-chain are related in as many steps as their distance in the
+chain. -/
+lemma RelatesInSteps.of_isChain {chain : List α}
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: maybe (including more useful dot notation):
```suggestion
lemma _root_.List.IsChain.relatesInSteps_getElem {chain : List α}
```

File: Cslib/Foundations/Data/RelatesInSteps.lean (hunk 21 above)
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]: this proof might be easier with the induction principle(s) i mentioned, but maybe that's just my taste
also the same naming idea as above:
```suggestion
lemma _root_.IsChainFromTo.relatesInSteps {chain : List α} (hc : chain.IsChainFromTo r a b) :
```

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 25]
```diff
@@ -0,0 +1,75 @@
...
+/-- A "chain from to" is a list of elements where adjacent elements relate to each other
+(cf. `List.IsChain`) and start and end with specific elements. -/
+structure List.IsChainFromTo {α : Type*} (r : α → α → Prop) (chain : List α) (a b : α) : Prop where
+  isChain : chain.IsChain r
+  ne_nil : chain ≠ []
+  head : chain.head ne_nil = a
+  last : chain.getLast ne_nil = b
+
+/-- Create a `List.IsChainFromTo` from a non-empty `List.IsChain`. -/
+theorem List.IsChainFromTo.of_isChain_ne_nil
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]:
```suggestion
theorem List.IsChain.isChainFromTo_of_ne_nil
```
gives usable dot notation

**Review by thomaskwaring — CHANGES_REQUESTED** [review]
i think the results here are very nice, but i would like a little more api to go with the definition `List.IsChainFromTo` — i suggested the evident `cons` lemma, but there is also one for `append` and induction principles from the left (head) and right

**Comment by thomaskwaring** [comment]
i've proven some lemmas, feel free to add them to this pr or we can also do a followup
```
lemma List.IsChainFromTo.of_cons_cons {x y : α} (hc : (x :: y :: chain).IsChainFromTo r a b) :
    (y :: chain).IsChainFromTo r y b :=
  ⟨hc.isChain.of_cons, cons_ne_nil _ _, head_cons, by grind⟩

lemma List.IsChainFromTo.append_tail (hc : chain.IsChainFromTo r a b)
    (hc' : chain'.IsChainFromTo r b c) : (chain ++ chain'.tail).IsChainFromTo r a c where
  isChain := by
    have hb : chain.dropLast ++ [b] = chain :=
      hc.getLast_eq ▸ chain.dropLast_append_getLast hc.ne_nil
    have hb' : [b] ++ chain'.tail = chain' := by simp [←hc'.head_eq]
    rw [←hb] at hc ⊢
    exact hc.isChain.append_overlap (l₃ := chain'.tail) (hb'.symm ▸ hc'.isChain) (cons_ne_nil b [])
  ne_nil := append_ne_nil_of_left_ne_nil hc.ne_nil _
  head_eq := head_append_left hc.ne_nil |>.trans hc.head_eq
  getLast_eq := by grind

lemma List.IsChainFromTo.append_dropLast (hc : chain.IsChainFromTo r a b)
    (hc' : chain'.IsChainFromTo r b c) : (chain.dropLast ++ chain').IsChainFromTo r a c := by
  convert hc.append_tail hc' using 1
  nth_rw 1 [←chain'.cons_head_tail hc'.ne_nil, hc'.head_eq, append_cons, ←hc.getLast_eq,
    dropLast_concat_getLast hc.ne_nil]

lemma List.IsChainFromTo.take (hc : chain.IsChainFromTo r a b) {i : ℕ} (hi : i < chain.length) :
    (chain.take (i + 1)).IsChainFromTo r a chain[i] := by
  have : chain.take (i + 1) ≠ [] := by grind [ne_nil_iff_length_pos, length_take]
  exact ⟨hc.isChain.take _, this, by grind, by grind [chain.getLast_take this]⟩

lemma List.IsChainFromTo.drop (hc : chain.IsChainFromTo r a b) {i : ℕ} (hi : i < chain.length) :
    (chain.drop i).IsChainFromTo r chain[i] b := by
  have : chain.drop i ≠ [] := ne_nil_iff_length_pos.mpr <| chain.lt_length_drop hi
  refine ⟨hc.isChain.drop _, this, chain.head_drop this, hc.getLast_eq ▸ chain.getLast_drop this⟩

lemma List.IsChainFromTo.head_induction_on
    {motive : ∀ {chain : List α} {a b : α}, chain.IsChainFromTo r a b → Prop}
    (h_refl : ∀ {a : α}, motive (IsChainFromTo.singleton (a := a)))
    (h_head : ∀ {a b c : α} {chain : List α} (hab : r a b) (hc : chain.IsChainFromTo r b c),
      motive hc → motive (hc.cons hab))
    {chain : List α} {a b : α} (hc : chain.IsChainFromTo r a b) : motive hc := by
  induction htail : chain.tail generalizing chain a with
  | nil =>
    obtain rfl : chain = [a] := by grind
    grind
  | cons a' tail ih =>
    obtain rfl : chain = a :: a' :: tail := by grind
    obtain ⟨hrel, hchain⟩ := isChain_cons_cons.mp hc.isChain
    have : (a' :: tail).IsChainFromTo r a' b := hc.of_cons_cons
    exact h_head hrel this (ih this rfl)
```

**Comment by crei** [comment]
Thank you for the numerous comments, @thomaskwaring and @ctchou ! I think I addressed everything and also added some things on top.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 26]
```diff
@@ -0,0 +1,194 @@
...
+lemma List.IsChainFromTo.cons (h : r a b) (hc : chain.IsChainFromTo r b c) :
+    (a :: chain).IsChainFromTo r a c where
+  isChain := hc.isChain.cons_of_ne_nil hc.ne_nil (hc.head_eq.symm ▸ h)
+  ne_nil := cons_ne_nil a chain
+  head_eq := head_cons
+  getLast_eq := hc.getLast_eq ▸ chain.getLast_cons hc.ne_nil
+
+/-- A two-element list of `r`-related elements is an `r`-chain from the first to the second. -/
+@[simp, grind ←]
+lemma List.isChainFromTo_pair (h : r a b) : List.IsChainFromTo r [a, b] a b :=
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: perhaps a more useful `simp` lemma would be:
```
@[simp]
lemma List.isChainFromTo_pair_iff {a a' b b' : α} :
    List.IsChainFromTo r [a, b] a' b' ↔ r a b ∧ a = a' ∧ b = b' := by
  constructor
  · rintro ⟨hc, _, rfl, rfl⟩
    simpa using hc
  · rintro ⟨h, rfl, rfl⟩
    constructor <;> simp_all
```
in that case the proof of `List.IsChainFromTo.snoc` is `append_tail hc (chain' := [b, c]) (by simpa)`. i'm not sure about this though

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 27]
```diff
@@ -0,0 +1,194 @@
...
+    obtain rfl : chain = [a] := by grind
+    grind
+  | cons a' tail ih =>
+    obtain rfl : chain = a :: a' :: tail := by grind
+    obtain ⟨hrel, hchain⟩ := isChain_cons_cons.mp hc.isChain
+    have : (a' :: tail).IsChainFromTo r a' b := hc.of_cons_cons
+    exact h_head hrel this (ih this rfl)
+
+/-- Any element of an `r`-chain from `a` to `b` is reflexively-transitively related from `a`. -/
+lemma List.IsChainFromTo.reflTransGen_of_mem (hc : chain.IsChainFromTo r a b) {x : α}
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: could you add a "right" version (using `.drop`) please

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 28]
```diff
@@ -147,6 +158,50 @@ lemma RelatesInSteps.map {α α' : Type*}
...
+
+/-- If there is an `r`-chain of `n + 1` elements from `a` to `b`, then `a` and `b` are related
+to each other in `n` steps. -/
+lemma _root_.List.IsChainFromTo.relatesInSteps {chain : List α} {n : ℕ}
+    (hc : chain.IsChainFromTo r a b) (hlen : chain.length = n + 1) :
+    RelatesInSteps r a b n := by
+  have hrel := _root_.List.IsChain.relatesInSteps_getElem hc.isChain 0 n (by lia)
+  simp only [Nat.zero_add] at hrel
+  have hlast : chain[n]'(by lia) = b := by simpa [hlen] using hc.getElem_length_sub_one
+  rwa [hc.getElem_zero, hlast] at hrel
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]:
```suggestion
  have hlast : chain[n]'(by lia) = b := by simpa [hlen] using hc.getElem_length_sub_one
  simpa [hc.getElem_zero, hlast] using hrel
```
maybe simpler?

File: Cslib/Foundations/Data/RelatesInSteps.lean
Comment (thomaskwaring) [inline Cslib/Foundations/Data/RelatesInSteps.lean]:
```suggestion
· rintro rfl
```
i once saw someone call this type of thing a "vanity golf", anyways...

**Review by thomaskwaring — APPROVED** [review]
thanks @crei, looking good! some small comments but nothing i feel strongly about

**Comment by crei** [comment]
I moved everything into the `List` namespace, changed `grind` to `scoped grind` and also added you as an author, @thomaskwaring

**Review by ctchou — APPROVED** [review]

**Comment by chenson2018** [comment]
It seems there's consensus here, I think I'll take one last brief look (maybe later this evening) before merging.

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 29]
```diff
@@ -0,0 +1,209 @@
...
+    (hc' : chain'.IsChainFromTo r b c) : (chain.dropLast ++ chain').IsChainFromTo r a c := by
+  convert hc.append_tail hc' using 1
+  nth_rw 1 [←chain'.cons_head_tail hc'.ne_nil, hc'.head_eq, append_cons, ←hc.getLast_eq,
+    dropLast_concat_getLast hc.ne_nil]
+
+/-- Taking the first `i + 1` elements of a chain yields a chain from the same start point to
+`chain[i]`. -/
+lemma IsChainFromTo.take (hc : chain.IsChainFromTo r a b) {i : ℕ} (hi : i < chain.length) :
+    (chain.take (i + 1)).IsChainFromTo r a chain[i] := by
+  have : chain.take (i + 1) ≠ [] := by grind [ne_nil_iff_length_pos, length_take]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: This should be squeezed to avoid a failing `grind?`
```suggestion
  have : chain.take (i + 1) ≠ [] := by grind only [length_nil, min_def, length_take]
```

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 30]
```diff
@@ -0,0 +1,209 @@
...
+  | cons a' tail ih =>
+    obtain rfl : chain = a :: a' :: tail := by grind
+    obtain ⟨hrel, hchain⟩ := isChain_cons_cons.mp hc.isChain
+    have : (a' :: tail).IsChainFromTo r a' b := hc.of_cons_cons
+    exact h_head hrel this (ih this rfl)
+
+/-- Any element of an `r`-chain from `a` to `b` is reflexively-transitively related from `a`. -/
+lemma IsChainFromTo.reflTransGen_of_mem (hc : chain.IsChainFromTo r a b) {x : α}
+    (mem : x ∈ chain) :
+    Relation.ReflTransGen r a x := by
```
Comment (chenson2018) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: I think the indentation should be

```suggestion
lemma IsChainFromTo.reflTransGen_of_mem (hc : chain.IsChainFromTo r a b) {x : α} (mem : x ∈ chain) :
    Relation.ReflTransGen r a x := by
```
(which exactly fits the first line in 100 columns)

File: Cslib/Foundations/Data/List/IsChainFromTo.lean [hunk 31]
```diff
@@ -0,0 +1,209 @@
...
+lemma IsChainFromTo.head_induction_on
+    {motive : ∀ {chain : List α} {a b : α}, chain.IsChainFromTo r a b → Prop}
+    (h_refl : ∀ {a : α}, motive (isChainFromTo_singleton (r := r) (a := a)))
+    (h_head : ∀ {a b c : α} {chain : List α} (hab : r a b) (hc : chain.IsChainFromTo r b c),
+      motive hc → motive (hc.cons hab))
+    {chain : List α} {a b : α} (hc : chain.IsChainFromTo r a b) : motive hc := by
+  induction htail : chain.tail generalizing chain a with
+  | nil =>
+    obtain rfl : chain = [a] := by grind
+    grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/List/IsChainFromTo.lean]: Not obligatory: I tend to like entering the interactive mode instead of calling `grind` multiple lines:

```suggestion
  | nil => grind => have : chain = [a]; finish
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Some very small style comments (one is optional)
